US05114960
5.3 g (0.053 mol) of chromium trioxide were added to a solution of 6.14 g (0.02 mol) of methyl 3-(4-chlorophenyl-3a,5,6,7,8,8a-hexahydro-4H-cyclohept[d]isoxazole-6-carboxylate (mixture of two diastereoisomers, prepared as described in the last paragraph of Example 1) in 110 ml of acetic acid and 0.5 ml of concentrated sulfuric acid. The mixture was heated to 90° C. for 40 minutes. Excess acetic acid was removed by evaporation, water and 2N sodium carbonate solution were added and the mixture was extracted with diethyl ether. Purification by column chromatography on silica gel using diethyl ether/hexane (1:1) for the elution gave 2.57 g or pure methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]-isoxazole-6-carboxylate of melting point 70°-71° C.

reactant | 4-chlorophenyl-3a,5,6,7,8,8a-hexahydro-4H-cyclohept[d]isoxazole-6-carboxylate | ClC1=CC=C(C=C1)C1=NOC2C1CCC(CC2)C(=O)[O-]
reactant | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 0.053 mol, 5.3 g | [O-2].[O-2].[O-2].[Cr+6]
product | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]-isoxazole-6-carboxylate | ClC1=CC=C(C=C1)C1=NOC2=C1CCC(CC2)C(=O)OC | C16H16ClNO3
